* RC circuit simulation

V1 in 0 PULSE(0 5 0 1u 1u 1 2)
R1 in out 1000
C1 out 0 100u

.tran 0.01 1


.control
run
wrdata rc_data0.txt v(out)
quit
.endc


.end

